US07888366B2
Grignard reaction of trimethylacetaldehyde (240.0 mg; 2.8 mmol) with 4-chlorophenylmagnesium bromide in anhydrous ether afforded 0.58 grams of 1-(4-chlorophenyl)-2,2-dimethylpropanol.

reactant | trimethylacetaldehyde | 2.8 mmol, 240.0 mg | CC(C=O)(C)C | C5H10O
reactant | 4-chlorophenylmagnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
solvent | ether | CCOCC | C4H10O
product | 1-(4-chlorophenyl)-2,2-dimethylpropanol | 0.58 grams | ClC1=CC=C(C=C1)C(C(C)(C)C)O | C11H15ClO
